US06228871B1
5-Thiophen-3-yl-nicotinic acid methyl ester
Methyl-3-bromo-nicotinate and 3-thiophene boronic acid were dissolved in degassed dioxane (25 mL). To the homogeneous solution was added Pd((Ph3)4P)). The reaction was heated to 90° C. for 18 hours and then cooled to room temperature and concentrated. The residue was taken up into EtOAc and water. The layers were then separated and the organics washed with brine and dried (MgSO4). Flash LC (60% Hexanes/EtOAc) gave the desired product.

reactant | Methyl-3-bromo-nicotinate | COC(C1(CN=CC=C1)Br)=O | C7H8BrNO2
reactant | 3-thiophene boronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 5-Thiophen-3-yl-nicotinic acid methyl ester | COC(C1=CN=CC(=C1)C1=CSC=C1)=O | C11H9NO2S
